datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([O:2][H:8])([S:3][H:9])[H:7])([H:4])([H:5])[H:6].[S:10][H:11]>>[C:0]([C:1]([O:2][H:8])[H:7])([H:4])([H:5])[H:6].[S:3]([H:9])[S:10][H:11],55.6472
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8])[H:7]>>[C:0](#[C:1][C:2]1([H:8])[C:3]([H:9])([H:10])[C:4]([H:11])([H:12])[C:5]1([C:6]([H:14])[H:15])[H:13])[H:7],94.9768
[C:0]([C:1]([C:2]([S:3][C:4]([C:5]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])[H:9])([H:6])([H:7])[H:8]>>[C:0]([C:1]([C:2]([S:3][C:4]([C:5]([H:14])([H:15])[H:16])[H:13])([H:10])[H:11])([H:9])[H:12])([H:6])([H:7])[H:8],46.7353
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[H:6].[C:14](#[C:15][C:16]([C:17]([H:20])([H:21])[H:22])[H:19])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[C:16]([C:15]#[C:14][H:18])([C:17]([H:20])([H:21])[H:22])[H:19])[H:6],45.3964
[C:0]([C:1]([O:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[H:9]>>[C:0]([C:1]([O:2][H:8])([H:6])[H:7])([H:4])[H:5].[H:3][H:9],31.342344
[C:0]([C:1]1[C:2]([H:13])=[c:3]2[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]2=[C:9]1[H:18])([H:10])([H:11])[H:12]>>[C:0]([C:1]1([H:10])[C:2]([H:13])=[c:3]2[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]2=[C:9]1[H:18])([H:11])[H:12],266.110768
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])=[C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:15])([H:13])[H:14].[C:27](=[C:28]([C:29]([C:30]([H:36])([H:37])[H:38])[C:31](=[C:32]([H:40])[H:41])[H:39])[H:35])([H:33])[H:34]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])([C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[C:29]([C:28](=[C:27]([H:33])[H:34])[H:35])([C:30]([H:36])([H:37])[H:38])[C:31](=[C:32]([H:40])[H:41])[H:39])[H:15])([H:13])[H:14],72.4669
[C:0](=[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([C:5](=[C:6]([C:7]([H:18])([H:19])[H:20])[H:17])[H:16])([H:14])[H:15])[H:10])([H:8])[H:9]>>[C:0](=[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[C:5]1([C:6]([C:7]([H:18])([H:19])[H:20])[H:17])[H:16])[H:10])([H:8])[H:9],73.8894
[C:0]([C:1](=[C:2]([C:3]([C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])=[C:7]([C:8]([H:19])([H:20])[H:21])[H:18])([H:13])[H:14])[H:12])[H:11])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]([H:13])([H:14])[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7]1([C:8]([H:19])([H:20])[H:21])[H:18],87.4874
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5]([C:6](=[C:7]([C:8]([C:9]([H:20])([H:21])[H:22])[H:19])[H:18])[H:17])([H:15])[H:16])[H:14])[H:10]>>[C:0](#[C:1][C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])[C:5]([H:15])([H:16])[C:6]([H:17])=[C:7]([H:18])[C:8]1([C:9]([H:20])([H:21])[H:22])[H:19])[H:10],111.294
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[O:4][O:5][H:14])([H:6])[H:7].[O:15][O:16]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[O:4][O:5][H:14])([H:6])([H:7])[O:15][O:16],-3.28962816
[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[O:11][H:12]>>[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])([H:8])[H:9])([H:6])[H:7].[H:5][O:11][H:12],6.635824
[C:0]([C:1]([O:2][H:7])([H:5])[H:6])([H:3])[H:4].[O:8][O:9][H:10]>>[C:0]([C:1]([O:2][H:7])([H:5])[H:6])([H:3])([H:4])[H:10].[O:8][O:9],0.0
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[c:10]1[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]1[H:20]>>[C:0]([C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])([H:6])[c:10]1[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]1[H:20])([H:4])[H:5],3.5564
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[H:13])([H:11])[H:12].[C:23]([C:24]([c:25]1[c:26]([H:35])[c:27]([H:36])[c:28]([H:37])[c:29]([H:38])[c:30]1[H:39])[H:34])([H:31])([H:32])[H:33]>>[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[C:24]([C:23]([H:31])([H:32])[H:33])([c:25]1[c:26]([H:35])[c:27]([H:36])[c:28]([H:37])[c:29]([H:38])[c:30]1[H:39])[H:34])[H:13])([H:11])[H:12],42.0074
[S:0]([H:1])[H:2].[c:3]1[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[c:7]([H:12])[c:8]1[H:13]>>[H:1][c:3]1[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[c:7]([H:12])[c:8]1[H:13].[S:0][H:2],-13.8072
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12]([C:13](=[O:14])[O:15][O:16])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][O:16][O:15][C:13]([C:12]([H:17])([H:18])[H:19])=[O:14],33.472
